US06100258
6-[N-(5-Bromo-2-(2-methylprop-2-en-1-yloxy)benzyl)-N-ethylamino]pyridazine-3-carboxylic acid
6-[N-(5-Bromo-2-(2-methylprop-2-en-1-yloxy)benzyl)-N-ethylamino]pyridazine-3-carboxamide (430 mg, 1.09 mmol) was dissolved in THF/methanol (30 ml, 1:1) and sodium hydroxide solution added (2.9 ml, 2M, 5.8 mmol). The mixture was heated at reflux for 72 hours, allowed to cool and evaporated. The residue was dissolved in water (25 ml) and acetic acid added to pH-4. The solution was stirred for 16 hours and then the resulting colourless precipitate collected by filtration, washed with water and dried under vacuum to give the title compound as a colourless powder (387 mg, 87%).

reactant | 6-[N-(5-Bromo-2-(2-methylprop-2-en-1-yloxy)benzyl)-N-ethylamino]pyridazine-3-carboxamide | 1.09 mmol, 430 mg | BrC=1C=CC(=C(CN(CC)C2=CC=C(N=N2)C(=O)N)C1)OCC(=C)C | C18H21BrN4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF methanol | 30 ml | C1CCOC1.CO
product | 6-[N-(5-Bromo-2-(2-methylprop-2-en-1-yloxy)benzyl)-N-ethylamino]pyridazine-3-carboxylic acid | 387 mg, 87% | BrC=1C=CC(=C(CN(CC)C2=CC=C(N=N2)C(=O)O)C1)OCC(=C)C | C18H20BrN3O3
